US06506758B2
4-(5,6-Dichloro-1H-indol-2-yl)-3-methoxy-N-(1,2,2,6,6-pentamethylpiperidin-4yl)-benzamide
A mixture of 3-methoxy-4-(5,6-dichloro-1H-indol-2-yl)-benzoic acid (0.15 g, 0.45 mmol), WSC (0.094 g, 0.5 mmol), HOAT (0.067 g, 0.5 mmol), 4-amino-1,2,2,6,6-pentamethylpiperidine (0.15 g, 0.9 mmol) in DMF (2 ml) was stirred at 50° C. for 18 h. The mixture was then poured in a large volume of water and extracted with AcOEt. The organic phase was washed with water, dried over MgSO4 and concentrated in vacuo. The residue was purified by flash chromatography (SiO2; CH2Cl2—MeOH—NH4OH: 91.5-7.5-1) then crystallised in di-isopropyl ether to afford 0.13 g (0.26 mmol. yield 59%) of the title compound, mp=260° C.

reactant | 3-methoxy-4-(5,6-dichloro-1H-indol-2-yl)-benzoic acid | 0.45 mmol, 0.15 g | COC=1C=C(C(=O)O)C=CC1C=1NC2=CC(=C(C=C2C1)Cl)Cl | C16H11Cl2NO3
reactant | WSC | 0.5 mmol, 0.094 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOAT | 0.5 mmol, 0.067 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | 4-amino-1,2,2,6,6-pentamethylpiperidine | 0.9 mmol, 0.15 g | NC1CC(N(C(C1)(C)C)C)(C)C | C10H22N2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-(5,6-Dichloro-1H-indol-2-yl)-3-methoxy-N-(1,2,2,6,6-pentamethylpiperidin-4yl)-benzamide | yield 59% | ClC=1C=C2C=C(NC2=CC1Cl)C1=C(C=C(C(=O)NC2CC(N(C(C2)(C)C)C)(C)C)C=C1)OC | C26H31Cl2N3O2
